US05462942
2-(2-(4-(7-bromo-2,3-dihydro-1,4-benzodioxin-5-yl)-1-piperazinyl)-ethyl)-6-chloro-3,4-dihydroisoquinolin-1(2H)-one, dihydrochloride
This compound was obtained analogous to the method described in EP-A-0190472 for 1-(benzo-[b]furan-7-yl)-4-[3-(4-fluorobenzoyl)-propyl)piperazine using 1-(7-bromo-2,3-dihydro-1,4-benzodioxin-5-yl)-4-(2-chloroethyl)piperazine (which was prepared similar to the method described for 1-(7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-4-(2-chloroethyl)piperazine as described in EP-A-0190472), and 6-chloro-3,4-dihydroisoquinolin-1(2H)-one. Yield 37%, m.p. <240° C. (dec.), 1H-NMR (DMSO:CDCI3 =4:1)δ3.09 (t, 2H, NCH2CH2Ar J=7 Hz), 3.16 (m, 2H, Hax pipCH2), 3.45 (m, 2H, +NCH2CH2), 3.55 (m, 2H, Heq pipCH2), 3.65-3.75 (cluster, 4H), 3.94 (t, 2H, CH2CH2NC=O), 4.26 (m, 4H, OCH2CH2O), 6.62 (d, 1 H, H-6, J=2 Hz), 6.75 (d, 1H, H-8 J=2 Hz), 7.37 (cluster, 2H), 7.88 (d, 1H, J=8 Hz), 11.0 (br, 1H, NH+)

reactant | 1-(benzo-[b]furan-7-yl)-4-[3-(4-fluorobenzoyl)-propyl)piperazine | O1C2=C(C=C1)C=CC=C2N2CCN(CC2)CCCC(C2=CC=C(C=C2)F)=O | C22H23FN2O2
reactant | 1-(7-bromo-2,3-dihydro-1,4-benzodioxin-5-yl)-4-(2-chloroethyl)piperazine | BrC=1C=C(C2=C(OCCO2)C1)N1CCN(CC1)CCCl | C14H18BrClN2O2
reactant | 1-(7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-4-(2-chloroethyl)piperazine | ClC=1C=C(C2=C(OCCO2)C1)N1CCN(CC1)CCCl | C14H18Cl2N2O2
reactant | 6-chloro-3,4-dihydroisoquinolin-1(2H)-one | ClC=1C=C2CCNC(C2=CC1)=O | C9H8ClNO
product | 2-(2-(4-(7-bromo-2,3-dihydro-1,4-benzodioxin-5-yl)-1-piperazinyl)-ethyl)-6-chloro-3,4-dihydroisoquinolin-1(2H)-one, dihydrochloride | Yield 37% | Cl.Cl.BrC=1C=C(C2=C(OCCO2)C1)N1CCN(CC1)CCN1C(C2=CC=C(C=C2CC1)Cl)=O | InChI=1S/C23H25BrClN3O3.2ClH/c24-17-14-20(22-21(15-17)30-11-12-31-22)27-8-5-26(6-9-27)7-10-28-4-3-16-13-18(25)1-2-19(16)23(28)29;;/h1-2,13-15H,3-12H2;2*1H
